US05587112
Into a 250 ml, 2-necked, round-bottomed flask, equipped with magnetic stirring, nitrogen inlet, and reflux condenser, were placed 6.98 g (28.8 mmole) of 3-carboxy-2-methoxydibenzofuran, 50 ml of dry tetrahydrofuran, 2.20 ml (30.2 mmole) of thionyl chloride, and 0.1 to 0.2 ml of N-methylpyrrolidinone. The mixture was refluxed for 2.5 hours and then allowed to cool to room temperature. Meanwhile, into a 3-necked, 500 ml, round bottomed flask, equipped with magnetic stirring, pressure-equalizing addition funnel, nitrogen inlet, and thermometer, were placed 8.99 g (30.2 mmole) of 3-amino-9,9-dipropyl-2-hydroxyfluorene, 50 ml dry tetrahydrofuran, and 4.77 ml (60.4 mole) of pyridine. To this solution was added the cooled acid chloride over several minutes, resulting in an exotherm and the formation of a precipitate. The mixture was stirred for an additional 1 hour, quenched by pouring into 400 ml of water, and made acidic (pH ≈1). The solid was collected by vacuum filtration, washed with water, slurried in 200 ml of methanol, refiltered, and washed with an additional 100 ml of methanol, resulting in a yellow solid. After drying obtained 10.5 g (70%) of N-(9,9-dipropyl-2-hydroxy-3-fluorenyl)-2-methoxydibenzofuran-3-carboxamide, mp 252°-255°.

reactant | 3-carboxy-2-methoxydibenzofuran | 28.8 mmole, 6.98 g | C(=O)(O)C=1C(=CC2=C(OC3=C2C=CC=C3)C1)OC | C14H10O4
reactant | thionyl chloride | 30.2 mmole, 2.20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-amino-9,9-dipropyl-2-hydroxyfluorene | 30.2 mmole, 8.99 g | NC=1C(=CC=2C(C3=CC=CC=C3C2C1)(CCC)CCC)O | C19H23NO
reactant | pyridine | 60.4 mole, 4.77 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | N-methylpyrrolidinone | 0.1 to 0.2 ml | CN1C(CCC1)=O | C5H9NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(9,9-dipropyl-2-hydroxy-3-fluorenyl)-2-methoxydibenzofuran-3-carboxamide | 10.5 g, 70% | C(CC)C1(C2=CC=CC=C2C=2C=C(C(=CC12)O)NC(=O)C=1C(=CC2=C(OC3=C2C=CC=C3)C1)OC)CCC | C33H31NO4
